OpenCircuit independent review hard-bound probe
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8586182546724171776
* Revision: G,Jan,2017
.model OC_JIANGSU-CHANGJING-ELECTRONICS-TECHNOLOGY-CO-LTD_BCP56-RANGE-100-250 NPN(IS=1.0000000000e-14 BF=1.9000000000e2 VAF=1.0000000000e2 IKF=1.0000000000e3 RB=1.0000000000e1 RC=1.0000000000e-1 RE=5.0000000000e-2 CJE=1.0000000000e-12 CJC=1.0000000000e-12 TF=1.0000000000e-9)
.temp 25
IC 0 c DC 0.5
IB 0 b DC 0.05
Q c b 0 OC_JIANGSU-CHANGJING-ELECTRONICS-TECHNOLOGY-CO-LTD_BCP56-RANGE-100-250
.op
.end
